US04360660
Preparation of Triphenylmethane Polymer (I-1)
4.8 g (0.02 mole) of N,N'-dimethyl-N,N'-diphenylethylenediamine (Compound I-1) and 3.0 g (0.02 mole) of para-N,N-dimethylaminobenzaldehyde were added to 50 g of 105% polyphosphoric acid, and the resulting mixture was stirred at 100° C. for 4 hours and then poured into 2 liters of cold water. Upon neutralization of the mixture with an aqueous solution of caustic soda, a polymer deposited as a precipitate. This precipitate was filtered off, fully washed with water and then dired. This reaction product was dissolved in tetrahydrofuran and redeposited in a large amount of methanol to conduct the purification thereof. Reprecipitation using tetrahydrofuran and methanol was repeated three times to obtain 7.2 g (97%) of a somewhat bluish polymer powder.

reactant | N,N'-dimethyl-N,N'-diphenylethylenediamine | 0.02 mole, 4.8 g | CN(CCN(C1=CC=CC=C1)C)C1=CC=CC=C1 | C16H20N2
reactant | para-N,N-dimethylaminobenzaldehyde | 0.02 mole, 3.0 g | CN(C)C1=CC=C(C=O)C=C1 | C9H11NO
reactant | caustic soda | [OH-].[Na+]
solvent | water | 2 liters | O | H2O
product | Triphenylmethane | C1(=CC=CC=C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16
